US09302991B2
<Step-3>:1-(2-methyl-6-(2,2,2-trifluoroethoxy)pyridin-4-yl)ethanone
A mixture of 1-(2-hydroxy-6-methylpyridin-4-yl)ethanone (82 mg, 0.542 mmol, Step-2), 2,2,2-trifluoroethyl trifluoromethanesulfonate (86 microL, 0.60 mmol) and cesium carbonate (350 mg, 1.09 mmol) in DMF (5 mL) is stirred at room temperature for 1.5 hours. The reaction mixture is poured into saturated aqueous sodium hydrogen carbonate (10 mL) and extracted with ethyl acetate (30 mL). The organic layer is washed with saturated aqueous sodium hydrogen carbonate (10 mL×2) and dried over sodium sulfate, and concentrated in vacuo. The residue is purified by column chromatography on silica gel eluting with n-hexane/ethyl acetate (1:1) to give 44 mg (35% yield) of the title compound as a white solid.

reactant | 1-(2-hydroxy-6-methylpyridin-4-yl)ethanone | 0.542 mmol, 82 mg | OC1=NC(=CC(=C1)C(C)=O)C | C8H9NO2
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 0.60 mmol | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | cesium carbonate | 1.09 mmol, 350 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium hydrogen carbonate | 10 mL | C(O)([O-])=O.[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-(2-methyl-6-(2,2,2-trifluoroethoxy)pyridin-4-yl)ethanone | 44 mg, 35% yield | CC1=NC(=CC(=C1)C(C)=O)OCC(F)(F)F | C10H10F3NO2
